US05063225
STEP C: α-[[(2-amino-phenyl)-thio]-methyl]-4-methoxy benzeneacetic acid
A solution of 125 ml of ethanol, 8.9 g of 4-methoxy-α-methylene benzeneacetic acid and 5.35 ml of 2-amino thiophenol was refluxed for 7 hours. The ethanol was evaporated off and the residue was crystallized from 500 ml of isopropyl ether to obtain 11 g of the desired product melting at 118° C. and used as is for the following step.

reactant | 4-methoxy-α-methylene benzeneacetic acid | 8.9 g | COC1=CC=C(C=C1)C(C(=O)O)=C | C10H10O3
reactant | 2-amino thiophenol | 5.35 ml | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | α-[[(2-amino-phenyl)-thio]-methyl]-4-methoxy benzeneacetic acid | 11 g | NC1=C(C=CC=C1)SCC(C(=O)O)C1=CC=C(C=C1)OC | C16H17NO3S
